US05093027
A mixture of 40 g of 4-[4-(trans-4-pentylcyclohexyl)-1-butenyl]benzonitrile, 2 g of palladium/carbon (5%) and 250 ml of ethyl acetate was stirred while gassing with hydrogen. Subsequently, the inorganic material was filtered off and the filtrate was concentrated. The residue was purified by chromatography on silica gel with toluene/ethyl acetate (vol. 9:1). Recrystallization from ethanol gave 36 g of pure 4-[4-(trans-4-pentylcyclohexyl)-1-butyl]benzonitrile with m.p. 51° C.

reactant | 4-[4-(trans-4-pentylcyclohexyl)-1-butenyl]benzonitrile | 40 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC=CC1=CC=C(C#N)C=C1 | C22H31N
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 2 g | [Pd] | Pd
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(trans-4-pentylcyclohexyl)-1-butyl]benzonitrile | 36 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCCC1=CC=C(C#N)C=C1 | C22H33N
